US06107337
To a solution of 1-aminocyclopentanecarboxylic acid benzyl ester p-toluenesulfonic acid salt (12.1 grams, 30.9 mmol) and triethylamine (10.0 mL, 72 mmol) in water (150 mL) and 1,4-dioxane (150 mL) was added 4'-fluorobiphenyl-4-sulfonyl chloride (8.8 grams, 32.5 mmol). The mixture was stirred at room temperature for 16 hours and then most of the solvent was removed by evaporation under vacuum. The mixture was diluted with ethyl acetate and was washed successively with dilute hydrochloric acid solution, water, and brine. The solution was dried over magnesium sulfate and concentrated to leave 1-(4'-fluorobiphenyl-4-sulfonylamino)cyclopentanecarboxylic acid benzyl ester as a solid, 12.33 grams (76%).

reactant | 1-aminocyclopentanecarboxylic acid benzyl ester p-toluenesulfonic acid salt | 30.9 mmol, 12.1 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N
reactant | triethylamine | 72 mmol, 10.0 mL | C(C)N(CC)CC | C6H15N
reactant | 4'-fluorobiphenyl-4-sulfonyl chloride | 32.5 mmol, 8.8 grams | FC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H8ClFO2S
solvent | water | 150 mL | O | H2O
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 1-(4'-fluorobiphenyl-4-sulfonylamino)cyclopentanecarboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C25H24FNO4S
